US07094900B2
N-({(5S)-3-[3,5-difluoro-4-(6-methoxypyridin-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide is prepared by the route described in Example 1 substituting N-{[(5S)-3-(3,5-difluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide for N-({(5S)-3-[3-fluoro-4-(6-methoxypyridin-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide. 1H-NMR (DMSO) δ: 8.25, 7.61, 7.30, 4.73, 4.10, 3.72, 3.49, 3.40, 2.30, 1.90, 1.83

reactant | N-{[(5S)-3-(3,5-difluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | FC=1C=C(C=C(C1I)F)N1C(O[C@H](C1)CNC(C)=O)=O | C12H11F2IN2O3
reactant | N-({(5S)-3-[3-fluoro-4-(6-methoxypyridin-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | FC=1C=C(C=CC1C=1C=NC(=CC1)OC)N1C(O[C@H](C1)CNC(C)=O)=O | C18H18FN3O4
product | N-({(5S)-3-[3,5-difluoro-4-(6-methoxypyridin-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | FC=1C=C(C=C(C1C=1C=NC(=CC1)OC)F)N1C(O[C@H](C1)CNC(C)=O)=O | C18H17F2N3O4
